US07323472B2
A solution of 18-crown-6 (422 mg, 1.6 mmol, 5 eq) and bis(2,2,2-trifluoroethyl) (methoxycarbonylmethyl)phosphonate (81 μL, 0.38 mmol, 1.2 eq) in anhyd THF (20 mL) was cooled to −78°. To this solution was added potassium bis(trimethylsilyl)amide (0.96 mL, 0.48 mmol, 1.5 eq) as a 0.5 mol solution in toluene. This solution was stirred for additional 30 min at −78° and 4-(2-chloro-phenylamino)-2-methylsulfanyl-6-phenoxy-pyrimidine-5-carbaldehyde (119 mg, 0.32 mmol) in dry THF (1 mL) was added dropwise. The reaction mixture was then stirred for 8 h at −78° and warmed to 23° and stirred 16 h. Saturated aq NH4Cl (5 mL), followed by Et2O (20 mL), was added. The layers were separated. The organic layer was washed with satd aq NaCl, dried (MgSO4) filtered and solvent was removed in vacuo. The yellow residue was then purified by Flash chromatography to give 100 mg (91% yield) of pure 8-(2-chloro-phenyl)-2-methylsulfanyl-4-phenoxy-8H-pyrido[2,3-d]pyrimidin-7-one. 1H-NMR δ 1.89 (s, 3H), 6.55 (d, 1H, J=9.9 Hz), 7.18 (m, 4H), 7.28 (m, 4), 7.44 (m, 1H), 7.98 (d, 1H, J=9.9 Hz). LC MS (m/e)=396 (MH+). Rt=2.68 min.

reactant | 18-crown-6 | 1.6 mmol, 422 mg, 5 eq | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | bis(2,2,2-trifluoroethyl) (methoxycarbonylmethyl)phosphonate | 0.38 mmol, 81 μL, 1.2 eq | COC(=O)CP(OCC(F)(F)F)(OCC(F)(F)F)=O | C7H9F6O5P
reactant | potassium bis(trimethylsilyl)amide | 0.48 mmol, 0.96 mL, 1.5 eq | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-(2-chloro-phenylamino)-2-methylsulfanyl-6-phenoxy-pyrimidine-5-carbaldehyde | 0.32 mmol, 119 mg | ClC1=C(C=CC=C1)NC1=NC(=NC(=C1C=O)OC1=CC=CC=C1)SC | C18H14ClN3O2S
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 8-(2-chloro-phenyl)-2-methylsulfanyl-4-phenoxy-8H-pyrido[2,3-d]pyrimidin-7-one | 100 mg, 91% yield | ClC1=C(C=CC=C1)N1C(C=CC2=C1N=C(N=C2OC2=CC=CC=C2)SC)=O | C20H14ClN3O2S
